US06121271
3,5-Diethyl-4-methoxybenzoic acid
At -78° C., to a stirred solution of 4-bromo-2,6-diethylanisole (12.0 g, 49.4 mmol) in THF (329 mL) was added dropwise n-butyllithium (27.2 mL, 43.5 mmol). After 3 h, the reaction was poured into crushed dry ice and allowed to warm to ambient temperature. The reaction mixture was diluted with EtOAc, concentrated, suspended in H2O, acidified (pH 1), filtered and the collected solids washed with H2O. The crude product was slurried in hexane (15 mL), collected by filtration and dried to give 6.76 g (66%) of the title compound. 1H NMR: consistent. IR (KBr): consistent. mass spectrum (EI) m/z 208 (M+). Anal. Calcd. for C12H16O3 : C, 69.21; H, 7.74; N, 0.00. Found: C, 69.28; H, 7.49; N, 0.07.

reactant | 4-bromo-2,6-diethylanisole | 49.4 mmol, 12.0 g | BrC1=CC(=C(C(=C1)CC)OC)CC | C11H15BrO
reactant | n-butyllithium | 43.5 mmol, 27.2 mL | C(CCC)[Li]
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 329 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3,5-Diethyl-4-methoxybenzoic acid | 6.76 g, 66% | C(C)C=1C=C(C(=O)O)C=C(C1OC)CC | C12H16O3
